US04273777
To a stirred mixture of 2-(3'-chloro-2'-methylanilino)-pyridine-3-carboxylic acid (26.3 g) in 400 ml of acetone, triethylamine (20.5 ml) was added. Thereafter pivaloyloxymethyl chloride (15 ml) was poured into the mixture and then it was refluxed 4 hours. Subsequently, the reaction mixture was cooled to 15°-20° C. poured into previously cooled distilled water (3000 ml) and maintained at 5°-7° C. for 4 hours. The cake was filtered by suction and the formed compound dried at 25°-35° C. under vacuum to obtain a yield of 77.4% (29.2 g) of pivaloyloxymethyl 2-(3'-chloro-2'-methylanilino)-pyridine-3-carboxylate, m.p.: 91° C.-92° C.

reactant | 2-(3'-chloro-2'-methylanilino)-pyridine-3-carboxylic acid | 26.3 g | ClC=1C(=C(NC2=NC=CC=C2C(=O)O)C=CC1)C | C13H11ClN2O2
reactant | pivaloyloxymethyl chloride | 15 ml | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
solvent | acetone | 400 ml | CC(=O)C | C3H6O
solvent | triethylamine | 20.5 ml | C(C)N(CC)CC | C6H15N
product | pivaloyloxymethyl 2-(3'-chloro-2'-methylanilino)-pyridine-3-carboxylate | 29.2 g, yield of 77.4% | ClC=1C(=C(NC2=NC=CC=C2C(=O)OCOC(C(C)(C)C)=O)C=CC1)C | C19H21ClN2O4
